US07262212B2
A mixture of 1-phenyl-5-mercapto-1H-tetrazole (3.5 g, 19.64 mmol), (2-methyl-2-oxiranylmethyl) toluene-4-sulfonate (5 g, 20.64 mmol), potassium carbonate (3 g, 21.71 mmol), and sodium iodide (4.5 g, 30.02 mmol) in DMF (30 ml) was stirred at 60° C. for 6 hours. The reaction mixture was was poured into water, and extracted with ethyl acetate twice. The extracts were combined, washed with 5% sodium hydroxide aqueous solution and then with water three times, and dried over sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=2/1) to afford 5-(2-methyl-2-oxiranylmethylsulfanyl)-1-phenyl-1H-tetrazole (1.9 g, yield 39%) as a colorless oil.

reactant | 1-phenyl-5-mercapto-1H-tetrazole | 19.64 mmol, 3.5 g | C1(=CC=CC=C1)N1N=NN=C1S | C7H6N4S
reactant | (2-methyl-2-oxiranylmethyl) toluene-4-sulfonate | 20.64 mmol, 5 g | C1(=CC=C(C=C1)S(=O)(=O)OCC1(OC1)C)C | C11H14O4S
reactant | potassium carbonate | 21.71 mmol, 3 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 30.02 mmol, 4.5 g | [I-].[Na+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-(2-methyl-2-oxiranylmethylsulfanyl)-1-phenyl-1H-tetrazole | 1.9 g, yield 39% | CC1(OC1)CSC1=NN=NN1C1=CC=CC=C1 | C11H12N4OS
